US05494908
N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine
To a sealed tube was added 3-chloro-1,2-benzisoxazole (3.0 g) and N-methyl-N-[2-(4-morpholinyl)ethyl]-amine (12.7 g). The reaction was heated to 140° C. over 72 hours and then cooled to room temperature. The residue was partitioned between EtOAc and water, extracted again with EtOAc, and the organic phase was dried over MgSO4 and concentrated in vacuo. Hash column chromatography (silica gel) eluting with 1-3% MeOH/DCM provided the product (1.2 g), as an oil.

reactant | 3-chloro-1,2-benzisoxazole | 3.0 g | ClC1=NOC2=C1C=CC=C2 | C7H4ClNO
reactant | N-methyl-N-[2-(4-morpholinyl)ethyl]-amine | 12.7 g | CNCCN1CCOCC1 | C7H16N2O
product | N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine | 1.2 g | CN(C1=NOC2=C1C=CC=C2)CCN2CCOCC2 | C14H19N3O2
